US08686024B2
Synthesis of 1-(2-pyridylmethyl)-3,3-dimethylindolin-5-yl 3-tetrahydrofurylmethylcarbamate
To a suspension of 1-(2-pyridylmethyl)-3,3-dimethylindolin-5-ol dihydrochloride (50.0 mg, 0.15 mmol) in 1 mL of dry tetrahydrofuran was added 4-nitrophenyl chloroformate (34 mg, 0.165 mmol) and diisopropylethylamine (91 μL, 0.52 mmol) under ice-cooled conditions. After the reaction mixture was stirred at room temperature for 1 h, 3-tetrahydrofurylmethylamine (17 μL, 0.165 mmol) and diisopropylethylamine (39 μL, 0.225 mmol) was added with additional stirring overnight. After the reaction mixture was added with water (10 mL), the solution was extracted with ethyl acetate (10 mL). The extract was washed with brine, and dried over MgSO4. After filtration, the filtrate was concentrated in vacuo, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=50/50 to 10/90) to obtain the title compound (10.7 mg, 18%) as a white solid having the following characteristics.

reactant | 1-(2-pyridylmethyl)-3,3-dimethylindolin-5-ol dihydrochloride | 0.15 mmol, 50.0 mg | Cl.Cl.N1=C(C=CC=C1)CN1CC(C2=CC(=CC=C12)O)(C)C
reactant | 4-nitrophenyl chloroformate | 0.165 mmol, 34 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropylethylamine | 0.52 mmol, 91 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-tetrahydrofurylmethylamine | 0.165 mmol, 17 μL | O1CC(CC1)CN | C5H11NO
reactant | diisopropylethylamine | 0.225 mmol, 39 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 1-(2-pyridylmethyl)-3,3-dimethylindolin-5-yl 3-tetrahydrofurylmethylcarbamate | 10.7 mg, 18% | O1CC(CC1)CNC(OC=1C=C2C(CN(C2=CC1)CC1=NC=CC=C1)(C)C)=O | C22H27N3O3
